US08426446B2
Step 4. Synthesis of N-(4-methyl-3-(3-(pyridin-3-yl)acrylamido)phenyl)-4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamide
0.4 g of N-(4-methyl-3-(3-(pyridin-3-yl)acrylamido)phenyl)-4-(bromomethyl)-3-(trifluoromethyl)benzamide was added into 20 ml anhydrous tetrahydrofuran, and then 1.0 g of potassium carbonate and 1.0 ml of 4-methyl piperazine. The reaction mixture was heated to reflux for 10 h. The completion of reaction was indicated by TLC. The reaction mixture was filtered, and the filtrate was evaporated to dry. 10 ml of water was added to dissolve the redundant 4-methylpiperazine and corresponding salts. The mixture was filtered, the filter cake was purified on silica gel column using ethyl acetate as an eluent to elute impurities, then using methanol as an eluent to elute the product. Concentration of the eluent under reduced pressure and crystallization gave a white solid.

reactant | N-(4-methyl-3-(3-(pyridin-3-yl)acrylamido)phenyl)-4-(bromomethyl)-3-(trifluoromethyl)benzamide | 0.4 g | CC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)CBr)C(F)(F)F)=O)NC(C=CC=1C=NC=CC1)=O | C24H19BrF3N3O2
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methyl piperazine | 1.0 ml | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(4-methyl-3-(3-(pyridin-3-yl)acrylamido)phenyl)-4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamide | CC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F)=O)NC(C=CC=1C=NC=CC1)=O | C29H30F3N5O2
